US06452056B1
To an autoclave of 1 l, 150 g of 2,6-difluorobenzonitrile, 150 g of hexane and 7.5 g of Ra—Ni were charged, replacement with hydrogen gas was carried out, and a reaction was carried out at a hydrogen pressure of from 30 to 40 kg/cm2 at a reaction temperature of 130° C. for 2.5 hours. After the completion of the reaction, the reaction mixture was subjected to filtration to separate off the catalyst, and hexane was recovered by distillation, followed by distillation under reduced pressure to obtain 146 g of 2,6-difluorobenzylamine (boiling point: 82° C./25 mmHg).

reactant | 2,6-difluorobenzonitrile | 1 l, 150 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | hydrogen | [H][H] | H2
catalyst | Ra—Ni | 7.5 g | [Ni] | Ni
solvent | hexane | 150 g | CCCCCC | C6H14
product | 2,6-difluorobenzylamine | 146 g | FC1=C(CN)C(=CC=C1)F | C7H7F2N
